US07399759B2
2-Benzylthio-6-cyanopyridine
Benzyl mercaptan (0.99 g, 7.94 mmol) and sodium hydride (60% in oil, 0.35 g, 8.66 mmol) were added to THF (30 ml), and the mixture was stirred at room temperature for 1 hr. A solution of 2-chloro-6-cyanopyridine (1.00 g, 7.22 mmol) in THF (10 ml) was added dropwise to the reaction mixture, and the mixture was stirred at room temperature for 18 hrs. The reaction mixture was combined with ethyl acetate and brine. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the titled compound (1.63 g, 100%) as a pale pink oil.

reactant | Benzyl mercaptan | 7.94 mmol, 0.99 g | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium hydride | 8.66 mmol, 0.35 g | [H-].[Na+]
reactant | 2-chloro-6-cyanopyridine | 7.22 mmol, 1.00 g | ClC1=NC(=CC=C1)C#N | C6H3ClN2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-Benzylthio-6-cyanopyridine | 1.63 g, 100% | C(C1=CC=CC=C1)SC1=NC(=CC=C1)C#N | C13H10N2S
